* MOSFET DC Characteristics Simulation with Temperature Analysis
.option scale=1E-6
.option gmin=1e-12
.option reltol=1e-3
.option abstol=1e-9
.option chgtol=1e-12
.option method=trap
.option TEMP=27
.option TNOM=27
.option TEMPSCALE=1.0

* Include SkyWater sky130 device models and global parameters
.include "../models/skywater-pdk-libs-sky130_fd_pr/models/parameters/lod.spice"
.include "../models/skywater-pdk-libs-sky130_fd_pr/models/parameters/invariant.spice"
.include "../models/skywater-pdk-libs-sky130_fd_pr/cells/nfet_01v8/sky130_fd_pr__nfet_01v8__mismatch.corner.spice"
.include "../models/skywater-pdk-libs-sky130_fd_pr/cells/pfet_01v8/sky130_fd_pr__pfet_01v8__mismatch.corner.spice"
.include "../models/skywater-pdk-libs-sky130_fd_pr/cells/nfet_01v8/sky130_fd_pr__nfet_01v8__tt.corner.spice"
.include "../models/skywater-pdk-libs-sky130_fd_pr/cells/pfet_01v8/sky130_fd_pr__pfet_01v8__tt.corner.spice"

* MOSFET device under test (Sky130 NMOS 1.8V)
X1 drain_iv gate_iv source_iv bulk_iv sky130_fd_pr__nfet_01v8 l=0.1500 w=2.0000

* MOSFET device under test for bias point analysis (NMOS)
X2 drain_bias gate_bias source_bias bulk_bias sky130_fd_pr__nfet_01v8 l=1 w=1

* MOSFET device under test for bias point analysis (PMOS)
X3 drain_pbias gate_pbias source_pbias bulk_pbias sky130_fd_pr__pfet_01v8 l=1 w=1

* IV Characteristics Circuit (match FreePDK45 structure)
Vds_iv drain_iv 0 DC 0
Vgs_iv gate_iv 0 DC 0
Vs_iv source_iv 0 DC 0
Vb_iv bulk_iv 0 DC 0

* Bias Point Analysis Circuit (NMOS)
Vds_bias drain_bias 0 DC 0
Vgs_bias gate_bias 0 DC 0
Vs_bias  source_bias 0 DC 0
Vb_bias  bulk_bias 0 DC 0

* Bias Point Analysis Circuit (PMOS)
Vdp_pbias drain_pbias 0 DC 0
Vgp_pbias gate_pbias 0 DC 0
Vsp_pbias source_pbias 0 DC 1.2
Vbp_pbias bulk_pbias 0 DC 1.2

* Control block (mirrored from FreePDK45, adapted for Sky130 devices)
.control
set filetype=ascii
set wr_vecnames
set wr_singlescale
set wr_singleprecision
set wr_formatted

* Run DC analysis with temperature sweep
echo "Starting temperature sweep"

* Temperature -40°C
option temp=-40
echo "Running simulation at temperature: -40 °C"
dc Vds_iv 0 1.2 0.01 Vgs_iv 0 1.2 0.2
let id = i(Vds_iv)
let is = i(Vs_iv)
let ig = i(Vgs_iv)
let ib = i(Vb_iv)
let kcl = abs(id + is + ig + ib)
* Write data in the order expected by data_reader: v(d) v(g) i(vds) i(vs) i(vb) i(vgs) kcl
wrdata ./iv_data_-40.txt v(drain_iv) v(gate_iv) id is ib ig kcl

* Temperature 0°C
option temp=0
echo "Running simulation at temperature: 0 °C"
dc Vds_iv 0 1.2 0.01 Vgs_iv 0 1.2 0.2
let id = i(Vds_iv)
let is = i(Vs_iv)
let ig = i(Vgs_iv)
let ib = i(Vb_iv)
let kcl = abs(id + is + ig + ib)
wrdata ./iv_data_0.txt v(drain_iv) v(gate_iv) id is ib ig kcl

* Temperature 25°C
option temp=25
echo "Running simulation at temperature: 25 °C"
dc Vds_iv 0 1.2 0.01 Vgs_iv 0 1.2 0.2
let id = i(Vds_iv)
let is = i(Vs_iv)
let ig = i(Vgs_iv)
let ib = i(Vb_iv)
let kcl = abs(id + is + ig + ib)
wrdata ./iv_data_25.txt v(drain_iv) v(gate_iv) id is ib ig kcl

* Temperature 50°C
option temp=50
echo "Running simulation at temperature: 50 °C"
dc Vds_iv 0 1.2 0.01 Vgs_iv 0 1.2 0.2
let id = i(Vds_iv)
let is = i(Vs_iv)
let ig = i(Vgs_iv)
let ib = i(Vb_iv)
let kcl = abs(id + is + ig + ib)
wrdata ./iv_data_50.txt v(drain_iv) v(gate_iv) id is ib ig kcl

* Temperature 100°C
option temp=100
echo "Running simulation at temperature: 100 °C"
dc Vds_iv 0 1.2 0.01 Vgs_iv 0 1.2 0.2
let id = i(Vds_iv)
let is = i(Vs_iv)
let ig = i(Vgs_iv)
let ib = i(Vb_iv)
let kcl = abs(id + is + ig + ib)
wrdata ./iv_data_100.txt v(drain_iv) v(gate_iv) id is ib ig kcl

* Temperature 150°C
option temp=150
echo "Running simulation at temperature: 150 °C"
dc Vds_iv 0 1.2 0.01 Vgs_iv 0 1.2 0.2
let id = i(Vds_iv)
let is = i(Vs_iv)
let ig = i(Vgs_iv)
let ib = i(Vb_iv)
let kcl = abs(id + is + ig + ib)
wrdata ./iv_data_150.txt v(drain_iv) v(gate_iv) id is ib ig kcl

* Bias Point Analysis Section (method 5.1 style)
echo "Starting bias point analysis"

* Run bias point analysis at room temperature
option temp=27
echo "Running bias point analysis at 27°C"

* Initialize bias_point_data.txt with headers
echo "v(drain_bias) v(gate_bias) id_bias ig_bias is_bias ib_bias" > ./bias_point_data.txt

* Initialize NMOS large-signal capacitance DC charge file (for method 5.1, NMOS)
echo "Vg Vd Qg Qd Qs Qb" > ./ls_caps_dc.txt

* First bias point (0.0, 0.0)
alter Vds_bias = 0.0
alter Vgs_bias = 0.0
op
let id_bias = i(Vds_bias)
let is_bias = i(Vs_bias)
let ig_bias = i(Vgs_bias)
let ib_bias = i(Vb_bias)
echo "$&v(drain_bias) $&v(gate_bias) $&id_bias $&ig_bias $&is_bias $&ib_bias" >> ./bias_point_data.txt

* Second bias point (0.0, 0.6)
alter Vds_bias = 0.0
alter Vgs_bias = 0.6
op
let id_bias = i(Vds_bias)
let is_bias = i(Vs_bias)
let ig_bias = i(Vgs_bias)
let ib_bias = i(Vb_bias)
echo "$&v(drain_bias) $&v(gate_bias) $&id_bias $&ig_bias $&is_bias $&ib_bias" >> ./bias_point_data.txt

* Third bias point (0.0, 1.2)
alter Vds_bias = 0.0
alter Vgs_bias = 1.2
op
let id_bias = i(Vds_bias)
let is_bias = i(Vs_bias)
let ig_bias = i(Vgs_bias)
let ib_bias = i(Vb_bias)
echo "$&v(drain_bias) $&v(gate_bias) $&id_bias $&ig_bias $&is_bias $&ib_bias" >> ./bias_point_data.txt

* Fourth bias point (0.6, 0.0)
alter Vds_bias = 0.6
alter Vgs_bias = 0.0
op
let id_bias = i(Vds_bias)
let is_bias = i(Vs_bias)
let ig_bias = i(Vgs_bias)
let ib_bias = i(Vb_bias)
echo "$&v(drain_bias) $&v(gate_bias) $&id_bias $&ig_bias $&is_bias $&ib_bias" >> ./bias_point_data.txt

* Fifth bias point (0.6, 0.6)
alter Vds_bias = 0.6
alter Vgs_bias = 0.6
op
let id_bias = i(Vds_bias)
let is_bias = i(Vs_bias)
let ig_bias = i(Vgs_bias)
let ib_bias = i(Vb_bias)
echo "$&v(drain_bias) $&v(gate_bias) $&id_bias $&ig_bias $&is_bias $&ib_bias" >> ./bias_point_data.txt

* Sixth bias point (0.6, 1.2)
alter Vds_bias = 0.6
alter Vgs_bias = 1.2
op
let id_bias = i(Vds_bias)
let is_bias = i(Vs_bias)
let ig_bias = i(Vgs_bias)
let ib_bias = i(Vb_bias)
echo "$&v(drain_bias) $&v(gate_bias) $&id_bias $&ig_bias $&is_bias $&ib_bias" >> ./bias_point_data.txt

* Seventh bias point (1.2, 0.0)
alter Vds_bias = 1.2
alter Vgs_bias = 0.0
op
let id_bias = i(Vds_bias)
let is_bias = i(Vs_bias)
let ig_bias = i(Vgs_bias)
let ib_bias = i(Vb_bias)
let qg_bias = @m.x2.msky130_fd_pr__nfet_01v8[qg]
let qd_bias = @m.x2.msky130_fd_pr__nfet_01v8[qd]
let qs_bias = @m.x2.msky130_fd_pr__nfet_01v8[qs]
let qb_bias = @m.x2.msky130_fd_pr__nfet_01v8[qb]
echo "$&v(drain_bias) $&v(gate_bias) $&id_bias $&ig_bias $&is_bias $&ib_bias" >> ./bias_point_data.txt
echo "$&v(gate_bias) $&v(drain_bias) $&qg_bias $&qd_bias $&qs_bias $&qb_bias" >> ./ls_caps_dc.txt

* Eighth bias point (1.2, 0.6)
alter Vds_bias = 1.2
alter Vgs_bias = 0.6
op
let id_bias = i(Vds_bias)
let is_bias = i(Vs_bias)
let ig_bias = i(Vgs_bias)
let ib_bias = i(Vb_bias)
echo "$&v(drain_bias) $&v(gate_bias) $&id_bias $&ig_bias $&is_bias $&ib_bias" >> ./bias_point_data.txt

* Ninth bias point (1.2, 1.2)
alter Vds_bias = 1.2
alter Vgs_bias = 1.2
op
let id_bias = i(Vds_bias)
let is_bias = i(Vs_bias)
let ig_bias = i(Vgs_bias)
let ib_bias = i(Vb_bias)
let qg_bias = @m.x2.msky130_fd_pr__nfet_01v8[qg]
let qd_bias = @m.x2.msky130_fd_pr__nfet_01v8[qd]
let qs_bias = @m.x2.msky130_fd_pr__nfet_01v8[qs]
let qb_bias = @m.x2.msky130_fd_pr__nfet_01v8[qb]
echo "$&v(drain_bias) $&v(gate_bias) $&id_bias $&ig_bias $&is_bias $&ib_bias" >> ./bias_point_data.txt
echo "$&v(gate_bias) $&v(drain_bias) $&qg_bias $&qd_bias $&qs_bias $&qb_bias" >> ./ls_caps_dc.txt

* PMOS large-signal capacitance DC charge file (for method 5.1)
echo "Vg Vd Qg Qd Qs Qb" > ./ls_caps_dc_pmos.txt

* PMOS first bias point: Vg=1.2, Vd=0.0, Vs=1.2, Vb=1.2
alter Vdp_pbias = 0.0
alter Vgp_pbias = 1.2
op
let qg_p = @m.x3.msky130_fd_pr__pfet_01v8[qg]
let qd_p = @m.x3.msky130_fd_pr__pfet_01v8[qd]
let qs_p = @m.x3.msky130_fd_pr__pfet_01v8[qs]
let qb_p = @m.x3.msky130_fd_pr__pfet_01v8[qb]
echo "$&v(gate_pbias) $&v(drain_pbias) $&qg_p $&qd_p $&qs_p $&qb_p" >> ./ls_caps_dc_pmos.txt

* PMOS second bias point: Vg=0.0, Vd=0.0, Vs=1.2, Vb=1.2
alter Vgp_pbias = 0.0
op
let qg_p = @m.x3.msky130_fd_pr__pfet_01v8[qg]
let qd_p = @m.x3.msky130_fd_pr__pfet_01v8[qd]
let qs_p = @m.x3.msky130_fd_pr__pfet_01v8[qs]
let qb_p = @m.x3.msky130_fd_pr__pfet_01v8[qb]
echo "$&v(gate_pbias) $&v(drain_pbias) $&qg_p $&qd_p $&qs_p $&qb_p" >> ./ls_caps_dc_pmos.txt

echo "DC analysis completed"
quit
.endc

.end
